Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[O:3])[C:11]([C:6](=[C:4][H:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],1.06912200895
[C:7][O:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:8][H:9],-5.64113062564
[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.23759898255
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],5.11694561699
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[C:3]([H:4])=[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])[H:12].[H:1][C:2]#[C:13][H:14],1.47140748474
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.4235089860400003
[C:4](=[O:5])[H:6].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[H:6],-3.23485101198
[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[H:6],0.804317150448
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.9180263966
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[H:11].[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-8.2937460977
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.869514447009999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.57318327749
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],5.14646181176
[H:1][C:2][O:3][C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.27122484648
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:1],7.65571770349
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10][O:11]1>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]=[O:11],-2.37181536581
[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.52098011579
[C:5][H:6].[O:1]=[C:2]([H:3])[C:4][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-8.18219136237
[C:7][O:8][H:9].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.6850729715599995
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[O:11],3.60801291703
[O:1]=[C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.19732722896
[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8],-4.88981037327
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.10061946378
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])([C:8])[H:13].[H:1][C:2]=[C:3]([H:4])[C:9]([C:10])([H:11])[H:12],9.03468000479
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.98874725785
[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13],-1.85994591539
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],4.3740897511000005
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.92553485063
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.08737111305
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.79759556994
